US07312330B2
C. 7-(3-Methanesulphonylpyridin-2-yl)-N-(5-(trifluoromethyl)pyridin-2-yl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-amine
N-(5-(Trifluoromethyl)pyridine-2-yl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-amine (100 mg, 0.34 mmol) was dissolved in a mixture of acetonitrile (2 mL). To the mixture was added 2-chloro-3-methanesulphonylpyridine (122 mg, 0.68 mmol) and N,N-diisopropylethylamine (0.23 mL, 0.68 mmol). The mixture was heated in a sealed tube at 150° C. in microwave (Model, Personal Chemistry) for 16 h. The solvents were removed under vacuum and the residue was dissolved in ethyl acetate and washed with sat. NaHCO3 and brine. The organic layer was dried over Na2SO4, filtered and evaporated to give a brown residue. The residue was purified by flash chromatography over silica gel using a gradient of ethyl acetate:hexane (0-100%) to give the desired compound as an off-white powder (66 mg).

reactant | N-(5-(Trifluoromethyl)pyridine-2-yl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-amine | 0.34 mmol, 100 mg | FC(C=1C=CC(=NC1)NC=1C2=C(N=CN1)CNCC2)(F)F | C13H12F3N5
reactant | 2-chloro-3-methanesulphonylpyridine | 0.68 mmol, 122 mg | ClC1=NC=CC=C1S(=O)(=O)C | C6H6ClNO2S
reactant | N,N-diisopropylethylamine | 0.68 mmol, 0.23 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | 7-(3-Methanesulphonylpyridin-2-yl)-N-(5-(trifluoromethyl)pyridin-2-yl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-amine | 66 mg | CS(=O)(=O)C=1C(=NC=CC1)N1CC=2N=CN=C(C2CC1)NC1=NC=C(C=C1)C(F)(F)F | C19H17F3N6O2S
